US07825160B2
Procedure as for example 10 replacing (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid with 5-cyclopropylmethoxy-4′-trifluoromethyl-biphenyl-3-yl-acetic acid, itself made according to the procedure of example 9 replacing benzyl alcohol with cyclopropylmethyl alcohol afforded 2-(5-cyclopropylmethoxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid, LC method B, retention time 12.8 min.

reactant | (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)O | C22H17F3O3
reactant | 5-cyclopropylmethoxy-4′-trifluoromethyl-biphenyl-3-yl-acetic acid | C1(CC1)COC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)O | C19H17F3O3
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | cyclopropylmethyl alcohol | C1(CC1)CO | C4H8O
product | 2-(5-cyclopropylmethoxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid | C1(CC1)COC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CCC | C22H23F3O3
